US07772230B2
(1) Preparation of 3-(4-methoxyphenoxy)propanoic acid
Solid KOH (6.80 g, 0.122 mol) and H2O (10 mL) are added to 4-methoxyphenol (7.0 g, 0.0564 mol), the resultant mixture is stirred at the room temperature while 3-chloropropanoic acid (6.12 g, 0.0564 mol) is added to thereof. Then the mixture is stirred and heated to reflux for 3 h. The mixture is acidified to pH 2 by adding concentrated aqueous HCl and extracted with ether. The combined ether extracts is then washed by 10% aqueous NaHCO3 and acidified to pH 3-4 by adding concentrated aqueous HCl, and precipitate was formed. The residue is filtered and recrystallized by benzene to provide needle crystal 2.0 g. m.p.: 102-103° C., yield: 18.1%.

reactant | KOH | 0.122 mol, 6.80 g | [OH-].[K+]
reactant | 4-methoxyphenol | 0.0564 mol, 7.0 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | 3-chloropropanoic acid | 0.0564 mol, 6.12 g | ClCCC(=O)O | C3H5ClO2
reactant | HCl | Cl | ClH
solvent | H2O | 10 mL | O | H2O
product | 3-(4-methoxyphenoxy)propanoic acid | 2.0 g, yield: 18.1% | COC1=CC=C(OCCC(=O)O)C=C1 | C10H12O4
